US07507740B2
(v) Production of (2E)-3-[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5-methyl-5H-pyrrolo[3,2-d]pyrimidin-6-yl]-2-propen-1-ol
A mixture of (2E)-3-(5-methyl-4-phenoxy-5H-pyrrolo[3,2-d]pyrimidin-6-yl)-2-propenyl benzoate (100 mg), 3-chloro-4-[(3-fluorobenzyl)oxy]aniline (130 mg), pyridine hydrochloride (36 mg) and 1-methyl-2-pyrrolidone (0.518 mL) was stirred with heating at 140° C. for 4 hrs. After cooling to room temperature, aqueous sodium hydrogen carbonate (20 mL) was added to the reaction mixture and the mixture was extracted with ethyl acetate (100 mL). The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (0.518 mL)/ethanol (0.518 mL), 1N aqueous sodium-hydroxide solution (0.518 mL) was added, and the mixture was stirred at room temperature for 2 hrs. Tetrahydrofuran/ethyl acetate (1:1, 50 mL) and saturated brine (30 mL) were added, and the mixture was extracted. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified by basic silica gel column chromatography (eluent, ethyl acetate:methanol=100:0→85:15) to give the title compound (45 mg) as crystals.

reactant | (2E)-3-(5-methyl-4-phenoxy-5H-pyrrolo[3,2-d]pyrimidin-6-yl)-2-propenyl benzoate | 100 mg | C(C1=CC=CC=C1)(=O)OC\C=C\C1=CC=2N=CN=C(C2N1C)OC1=CC=CC=C1 | C23H19N3O3
reactant | 3-chloro-4-[(3-fluorobenzyl)oxy]aniline | 130 mg | ClC=1C=C(N)C=CC1OCC1=CC(=CC=C1)F | C13H11ClFNO
reactant | pyridine hydrochloride | 36 mg | Cl.N1=CC=CC=C1
reactant | sodium hydrogen carbonate | 20 mL | C(O)([O-])=O.[Na+]
solvent | 1-methyl-2-pyrrolidone | 0.518 mL | CN1C(CCC1)=O | C5H9NO
product | (2E)-3-[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5-methyl-5H-pyrrolo[3,2-d]pyrimidin-6-yl]-2-propen-1-ol | 45 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=C(N2C)/C=C/CO | C23H20ClFN4O2
